US07429665B2
Dimethyl-(4-{1-methyl-3-[4-(quinolin-2-ylmethoxy)-phenyl]-1H-pyrazol-4-yl}-pyridin-2-yl)-amine
To a solution of 2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline (100 mg) in dimethyl formamide (1 ml) was added diethanolamine (0.035 ml) and the reaction mixture heated at 130° C. for 72 h. The reaction mixture was poured into water and extracted with ethyl ether, dried magnesium sulfate, filtered and concentrated. Prep TLC eluting with 60% ethyl acetate/hexane provided the title compound as a Free base. The product was stirred in ethyl acetate and 1 eq. of succinic acid was added. After 18 h, the white precipitate was filtered to provide the succinate salt (24 mg). 1H NMR (400 MHz, DMSO) δ 8.40 (d, J=8.3 Hz, 1 H), 8.03 (s, 1 H), 7.98 (m, 2 H), 7.90 (d, J=5.4 Hz, 1 H), 7.77 (m, 1H), 7.65 (d, J=8.3 Hz, 1 H), 7.59 (m, 1 H), 7.31 (d, J=6.6 Hz, 2H), 7.04 (d, J=9.1 Hz, 2 H), 6.37 (m, 2 H), 5.35 (s, 2H), 3.84 (s, 3H), 2.80 (s, 6H) 2.37 (s, 4H); MS: M+H m/z=436.0).

reactant | 2-{4-[4-(2-Chloro-pyridin-4-yl)-1-methyl-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | 100 mg | ClC1=NC=CC(=C1)C=1C(=NN(C1)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H19ClN4O
reactant | diethanolamine | 0.035 ml | N(CCO)CCO | C4H11NO2
reactant | water | O | H2O
solvent | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | Dimethyl-(4-{1-methyl-3-[4-(quinolin-2-ylmethoxy)-phenyl]-1H-pyrazol-4-yl}-pyridin-2-yl)-amine | CN(C1=NC=CC(=C1)C=1C(=NN(C1)C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | C27H25N5O
